US07323472B2
4-(2-Chloro-phenyl)-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-chlorophenylboronic acid to give the title compound 4-(2-chloro-phenyl)-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 0.91 (m, 6H), 1.42-1.60 (m, 4H), 2.45 (s, 3H), 4.21 (m, 1H), 7.32 (m, 4H), 8.96 (br s, 1H), 9.44 (s, 1H). LC MS (m/e)=350 (MH+).

reactant | 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC(CC)CC)SC | C11H16ClN3OS
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 4-(2-chloro-phenyl)-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=C(C=CC=C1)C1=NC(=NC(=C1C=O)NC(CC)CC)SC | C17H20ClN3OS
